US05807927
Analogously to Example 1, 165.43 g (1.02 mol) of 1,1'-carbonyldiimidazole and 700 ml of tetrahydrofuran are introduced into an apparatus, allowed to react with 202.86 g (1.0 mol) of 3-(4,4-dimethyl-2,5-dioxoimidazolidin-1-yl)propionic acid and subsequently reacted with 107.21 g (1.02 mol) of 2-aminoacetaldehyde dimethyl acetal. The reaction mixture is evaporated to dryness at 80° C./0.1 mbar in a rotary evaporator, and the resultant residue is purified analogously to Example 1, giving 154.2 g (54.2% of theory) of N-(2,2-dimethoxyethyl)-3-(4,4-dimethyl-2,5-dioxoimidazolidin-1-yl)propionamide, which melts at 123° C.

reactant | 1,1'-carbonyldiimidazole | 1.02 mol, 165.43 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-(4,4-dimethyl-2,5-dioxoimidazolidin-1-yl)propionic acid | 1.0 mol, 202.86 g | CC1(NC(N(C1=O)CCC(=O)O)=O)C | C8H12N2O4
reactant | 2-aminoacetaldehyde dimethyl acetal | 1.02 mol, 107.21 g | COC(CN)OC | C4H11NO2
solvent | tetrahydrofuran | 700 ml | O1CCCC1 | C4H8O
product | N-(2,2-dimethoxyethyl)-3-(4,4-dimethyl-2,5-dioxoimidazolidin-1-yl)propionamide | 154.2 g, 54.2% | COC(CNC(CCN1C(NC(C1=O)(C)C)=O)=O)OC | C12H21N3O5
